US04404206
N-[3-mercapto 2-(RS) methylpropionyl] 1-(RS) carboxy perhydroisoindole
Using the method described in example 1, beginning with 3-acetylthio-2-(RS) methylpropionic acid and 1-(RS) carbomethoxy perhydroisoindole, prepared according to the method described in example 13 for 2-(RS)-carbethoxyindoline, the following are obtained successively:

reactant | 3-acetylthio-2-(RS) methylpropionic acid | C(C)(=O)SCC(C(=O)O)C | C6H10O3S
reactant | 1-(RS) carbomethoxy perhydroisoindole | C(=O)(OC)C1NCC2CCCCC12 | C10H17NO2
reactant | 2-(RS)-carbethoxyindoline | C(=O)(OCC)C1NC2=CC=CC=C2C1 | C11H13NO2
product | N-[3-mercapto 2-(RS) methylpropionyl] 1-(RS) carboxy perhydroisoindole | SCC(C(=O)N1C(C2CCCCC2C1)C(=O)O)C | C13H21NO3S
